US05929291
A mixture of 11.0 g (52 mmol) of 2-(1,2,2-trimethylbicyclo[3.1.0]hex-3-ylmethyl)-[1,3]-dioxolane, 80 ml of acetone, 40 ml of water, 1.5 ml of conc. hydrochloric acid and 10 g of silica gel was stirred at reflux for 4 hours. After filtration, the solution was diluted with diethyl ether, washed with water, dried (MgSO4) and evaporated in vacuo. Kugelrohr distillation of the residue gave 6.8 g (79% yield) of (1,2,2-trimethylbicyclo[3,1,0]hex-3-yl)ethanal.

reactant | 2-(1,2,2-trimethylbicyclo[3.1.0]hex-3-ylmethyl)-[1,3]-dioxolane | 52 mmol, 11.0 g | CC12C(C(CC2C1)CC1OCCO1)(C)C | C13H22O2
reactant | acetone | 80 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
product | (1,2,2-trimethylbicyclo[3,1,0]hex-3-yl)ethanal | 6.8 g, 79% yield | CC12C(C(CC2C1)CC=O)(C)C | C11H18O
